US07538224B2
3-(2-Allyloxyethyl)-1,5-bis(methoxymethoxy)-2-bromo-4-ethylbenzene (5.0 g, 13 mmol) obtained in Example 33, Step 2 was dissolved in a mixed solvent of tetrahydrofuran (50 mL) and water (10 mL). To the solution were added 4-methylmorpholine N-oxide (1.9 g, 16 mmol) and a 2.5% solution of osmium tetroxide in 2-methyl-2-propanol (1.0 mL) at room temperature with stirring, and the mixture was stirred overnight. After addition of a saturated aqueous solution of sodium thiosulfate, the reaction mixture was further stirred for 2 hours and then extracted twice with ethyl acetate. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 3-{2-[3,5-bis(methoxymethoxy)-2-bromo-6-ethylphenyl]ethoxy}propane-1,2-diol. The obtained 3-{2-[3,5-bis(methoxymethoxy)-2-bromo-6-ethylphenyl]ethoxy}propane-1,2-diol was dissolved in N,N-dimethylformamide (50 mL), and 2,2-dimethoxypropane (6.4 mL, 52 mmol) and p-toluenesulfonic acid monohydrate (0.12 g, 0.63 mmol) were added thereto at room temperature with stirring, followed by stirring for 30 minutes. After neutralization with a saturated aqueous solution of sodium hydrogencarbonate, the reaction mixture was extracted twice with ethyl acetate. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/9-1/4) to obtain 1,5-bis(methoxymethoxy)-3-{2-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]ethyl}-2-bromo-4-ethylbenzene (5.6 g, 93%) as a colorless oil.

reactant | 3-{2-[3,5-bis(methoxymethoxy)-2-bromo-6-ethylphenyl]ethoxy}propane-1,2-diol | COCOC=1C(=C(C(=C(C1)OCOC)CC)CCOCC(CO)O)Br | C17H27BrO7
reactant | 2,2-dimethoxypropane | 52 mmol, 6.4 mL | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 0.63 mmol, 0.12 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1,5-bis(methoxymethoxy)-3-{2-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]ethyl}-2-bromo-4-ethylbenzene | 5.6 g, 93% | COCOC1=C(C(=C(C(=C1)OCOC)CC)CCOCC1OC(OC1)(C)C)Br | C20H31BrO7
